US09388176B2
N-(3-methylphenyl)-6-[2-(methylthio)-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl]pyridine-2-carboxamide
In a manner similar to that described in Example 108, a mixture of 6-[2-(methylthio)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-6-yl]pyridine-2-carboxylic acid and m-toluidine were converted to the title compound.

reactant | 6-[2-(methylthio)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-6-yl]pyridine-2-carboxylic acid | CSC=1N=CC2=C(N1)CCN(C2)C2=CC=CC(=N2)C(=O)O | C14H14N4O2S
reactant | m-toluidine | NC1=CC(=CC=C1)C | C7H9N
product | N-(3-methylphenyl)-6-[2-(methylthio)-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl]pyridine-2-carboxamide | CC=1C=C(C=CC1)NC(=O)C1=NC(=CC=C1)N1CC2=C(N=C(N=C2)SC)CC1 | C21H21N5OS
